US04904671
(b) 2-(4-Hydroxybutylamino)phenylamine
2-(4-Hydroxybutylamino)nitrobenzene (30 g) was dissolved in ethanol (200 ml) containing 10% palladium-on-carbon (1 g) and hydrogentated at room temperature for 3 hours under pressure (50 p.s.i.=344.7 kPa). The solution was filtered and evaporated under vacuum and the residue chromatographed on silica eluting with ethyl acetate. The fractions containing the product were evaporated under vacuum to give the title compound, (23.2 g), which was used directly in the next step.

reactant | 2-(4-Hydroxybutylamino)nitrobenzene | 30 g | OCCCCNC1=C(C=CC=C1)[N+](=O)[O-] | C10H14N2O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 2-(4-Hydroxybutylamino)phenylamine | 23.2 g | OCCCCNC1=C(C=CC=C1)N | C10H16N2O
